US04379785
N-(4-[2-(2-oxo-pyrrolidine-1-carboxamido)-ethyl]-benzenesulfonyl)-N'-cyclohexyl urea
5 g of 4-[2-(oxo-pyrrolidine-1-carboxamido)-ethyl]-benzenesulfonamide are dissolved in 100 ml of acetone with 0.65 g of NaOH and water. 2.3 g of cyclohexyl-isocyanate are added dropwise with agitation and ice cooling, and agitation is continued for 2 hours at room temperature. Subsequently, the substantial amount of acetone is distilled off under reduced pressure, the aqueous solution is acidified and the product is reprecipitated from dilute ammonia. The N-(4-[2-(2-oxo-pyrrolidine-1-carboxamido)-ethyl]-benzenesulfonyl)-N'-cyclohexyl urea is recrystallized from dilute ethanol, and has a melting point of 189°-190° C.

reactant | 4-[2-(oxo-pyrrolidine-1-carboxamido)-ethyl]-benzenesulfonamide | 5 g | O=C1N(CCC1)C(=O)NCCC1=CC=C(C=C1)S(=O)(=O)N | C13H17N3O4S
reactant | NaOH | 0.65 g | [OH-].[Na+]
reactant | water | O | H2O
reactant | cyclohexyl-isocyanate | 2.3 g | C1(CCCCC1)N=C=O | C7H11NO
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | N-(4-[2-(2-oxo-pyrrolidine-1-carboxamido)-ethyl]-benzenesulfonyl)-N'-cyclohexyl urea | O=C1N(CCC1)C(=O)NCCC1=CC=C(C=C1)S(=O)(=O)NC(=O)NC1CCCCC1 | C20H28N4O5S
